US07601843B2
tert-Butyl-2-(1-ethylcyclohexyl)ethoxydiphenylsilane
After suspending lithium aluminum hydride (0.30 g, 7.80 mmol) in tetrahydrofuran (15 mL), a solution of 2-[1-(2-tert-butyldiphenylsiloxyethyl)cyclohexyl]ethyl methanesulfonate (3.97 g, 7.80 mmol) in tetrahydrofuran (10 mL) was added dropwise at room temperature over a period of 10 minutes. After stirring for an additional 10 minutes, the mixture was heated to reflux for 45 minutes. Water (0.30 mL), 15% aqueous sodium hydroxide (0.30 mL) and water (0.90 mL) were added dropwise in that order while cooling on ice, diethyl ether (25 mL) was added and the mixture was stirred for 16 hours, and then celite was added and stirring was continued for 1 hour prior to filtration. The filtrate was concentrated under reduced pressure to obtain the title compound as a colorless oil (3.02 g).

reactant | lithium aluminum hydride | 7.80 mmol, 0.30 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[1-(2-tert-butyldiphenylsiloxyethyl)cyclohexyl]ethyl methanesulfonate | 7.80 mmol, 3.97 g | CS(=O)(=O)OCCC1(CCCCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H40O4SSi
reactant | Water | 0.30 mL | O | H2O
reactant | sodium hydroxide | 0.30 mL | [OH-].[Na+]
reactant | water | 0.90 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | tert-Butyl-2-(1-ethylcyclohexyl)ethoxydiphenylsilane | 3.02 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1(CCCCC1)CC | C26H38OSi
